US04002640
1.4 G. of 1-acetamido-2-nitro-4-methoxymethylthiobenzene is treated with 3 ml. 5N sodium hydroxide and 6 ml. methanol in the steam bath for about 15 minutes. The mixture is stripped under vacuum and the residue extracted with chloroform. The dried extracts are evaporated giving 1-amino-2-nitro-4-methoxymethylthiobenzene as a red crystalline solid.

reactant | 1-acetamido-2-nitro-4-methoxymethylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCOC)[N+](=O)[O-] | C10H12N2O4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-amino-2-nitro-4-methoxymethylthiobenzene | NC1=C(C=C(C=C1)SCOC)[N+](=O)[O-] | C8H10N2O3S
